US04742055
3-Amino-2-Benzyl-5-Methoxy-2H-1,2,4,6-thiatriazine-1,1-dioxide
A solution of benzylsulfamoyl chloride (168 g) in anhydrous THF (300 ml) is added dropwise to a stirred solution of N-carbomethoxy-O-methylisourea (107 g) and triethylamine (90 g) in anhydrous THF (800 ml) under nitrogen at -70° C. The resulting suspension is warmed to RT, filtered and the filtrate evaporated in vacuo. The residue is partitioned between methylene chloride and 0.5N aqueous HCl. The organic layer is dried, filtered, and concentrated in vacuo affording the desired product as an oil.

reactant | benzylsulfamoyl chloride | 168 g | C(C1=CC=CC=C1)NS(=O)(=O)Cl | C7H8ClNO2S
reactant | N-carbomethoxy-O-methylisourea | 107 g | C(=O)(OC)NC(OC)=N | C4H8N2O3
reactant | triethylamine | 90 g | C(C)N(CC)CC | C6H15N
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 800 ml | C1CCOC1 | C4H8O
product | 3-Amino-2-Benzyl-5-Methoxy-2H-1,2,4,6-thiatriazine-1,1-dioxide | NC=1N(S(N=C(N1)OC)(=O)=O)CC1=CC=CC=C1 | C10H12N4O3S
